US04791229
16.2 g (0.1 mole) of 3,4-dichloroaniline were dissolved in 278 g of 64% strength acetic acid; 6.1 ml (0.12 mole) of cyanogen chloride were added at 10° C. and 22 g (0.11 mole) of 20% strength NaOH solution were then added dropwise slowly, with stirring. The mixture was stirred for a further 2 hours at room temperature and filtered with suction, and the filter residue was washed with water and dried. This gave 15 g (≅80% of theory) of 3,4-dichlorophenyl cyanamide which gave a clear solution in 2N NaOH and was homogeneous according to examination by thin layer chromatography.

reactant | 3,4-dichloroaniline | 0.1 mole, 16.2 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | cyanogen chloride | 0.12 mole, 6.1 ml | N#CCl | CClN
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4-dichlorophenyl cyanamide | 15 g, 80% | ClC=1C=C(C=CC1Cl)NC#N | C7H4Cl2N2
